US05451601
18.4 g of potassium carbonate, 4.5 g of sodium iodide and then 9.54 g of pyrrolidine are successively added to a solution of 36 g of methyl 2-(3-bromopropoxy)phenyl-acetate in 400 cm3 of acetonitrile. The reaction mixture is refluxed for 5 hours and then stirred at 20° C. for 20 hours and diluted with 800 cm3 of dichloromethane. The solution is washed with 80 cm3 of water and then twice with 80 cm3 of brine. The chloromethylenic phase is dried over sodium sulphate and concentrated to dryness under reduced pressure. The residue is chromatographed on a silica gel column (particle size 0.04-0.06 mm, diameter 4.5 cm, height 48 cm), eluting under a nitrogen pressure of 0.4 bar with an ethyl acetate and methanol mixture (90/10 by volume) and collecting fractions of 500 cm3. Fractions 3 to 8 are pooled and concentrated to dryness at 50° C. under reduced pressure (2.7 kPa). 24.9 g of methyl {[3-(1-pyrrolidinyl)-2-propoxy]phenyl}acetate are obtained in the form of an orange-colored oil.

reactant | potassium carbonate | 18.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 4.5 g | [I-].[Na+]
reactant | pyrrolidine | 9.54 g | N1CCCC1 | C4H9N
reactant | methyl 2-(3-bromopropoxy)phenyl-acetate | 36 g | BrCCCOC1=C(C=CC=C1)CC(=O)OC | C12H15BrO3
solvent | acetonitrile | 400 cm3 | C(C)#N | C2H3N
solvent | dichloromethane | 800 cm3 | ClCCl | CH2Cl2
product | methyl {[3-(1-pyrrolidinyl)-2-propoxy]phenyl}acetate | 24.9 g | N1(CCCC1)CC(C)OC1=C(C=CC=C1)CC(=O)OC | C16H23NO3
